US07459448B2
(2-{[2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester (I-71-a)
To a solution of 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid (I-53) (75 mg, 0.18 mmol) in DMF (5 mL) was added N,N-diisopropylethylamine (0.10 mL, 0.55 mmol), TBTU (65 mg, 0.20 mmol), and tert-butyl 2-aminoethylcarbamate (35.5 mg, 0.22 mmol). The reaction stirred at 22° C. overnight. The reaction mixture was diluted with H2O, and the precipitate that formed was filtered, washed with H2O and dried to give I-71-a [MS m/z═549 (M+H)] which was carried on crude to the deprotection.

reactant | 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid | 0.18 mmol, 75 mg | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)C(=O)O)N1 | C21H18N4O5
reactant | N,N-diisopropylethylamine | 0.55 mmol, 0.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 0.20 mmol, 65 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | tert-butyl 2-aminoethylcarbamate | 0.22 mmol, 35.5 mg | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | (2-{[2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCNC(=O)C=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C1)=O | C28H32N6O6
